US05455252
2-bromo-4-isopropylaniline and 4-chlorobenzene boronic acid were combined to form 2-(4-chlorophenyl)-4-isopropylaniline, and

reactant | 2-bromo-4-isopropylaniline | BrC1=C(N)C=CC(=C1)C(C)C | C9H12BrN
reactant | 4-chlorobenzene boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 2-(4-chlorophenyl)-4-isopropylaniline | ClC1=CC=C(C=C1)C1=C(N)C=CC(=C1)C(C)C | C15H16ClN
